US06316639B1
Preparation of N-hydroxynaphthalene-1,8-dicarboxylic acid imide
1.98 g (10.0 mmol) of 1,8-naphthalenedicarboxylic anhydride and 0.985 g (5.00 mmol) of hydroxylammonium phosphate were reacted with 2 ml of water analogously to Example 7 for 6 hours at a bath temperature of 130° C. Following cooling, the pale brown reaction mixture was digested with water, and the solid was filtered off with suction and dried. The yield was 1.89 g (89%).

reactant | 1,8-naphthalenedicarboxylic anhydride | 10.0 mmol, 1.98 g | C12=CC=CC3=CC=CC(=C13)C(=O)OC2=O | C12H6O3
reactant | hydroxylammonium phosphate | 5.00 mmol, 0.985 g | P(=O)([O-])([O-])[O-].O[NH3+].O[NH3+].O[NH3+]
solvent | water | O | H2O
solvent | water | 2 ml | O | H2O
product | N-hydroxynaphthalene-1,8-dicarboxylic acid imide | ON=C(O)C1=CC=CC2=CC=CC(=C12)C(=O)O | C12H9NO4
